US04415573
Bis(trimethylsilyl)-5-fluorouracil which had been prepared by treating 5-fluorouracil (10 g) as in Example 1 was dissolved in chloroform (20 ml). Separately prepared 2-ethyl-1,3-dioxolan (15 ml) from propionyldehyde (25 ml) and ethylene glycol (25 ml) was added to the above solution. Then, to the mixture was added dropwise a solution of anhydrous stannic chloride (6 ml) in chloroform (15 ml) under cooling in an ice bath for one hour. Following stirring at room temperature for one hour, the reaction mixture was poured into methanol (100 ml) containing sodium bicarbonate (30 g) and, after removing the resulting precipitate by filtration, the filtrate was evaporated under reduced pressure. The residue was dissolved in water (10 ml), purified by column chromatography with use of Amberlite XAD-4 (Rohm and Haas Co.), and then treated with benzene to give 8.7 of crystalline 1-[1-(2-hydroxyethoxy)propyl]-5-fluorouracil.

reactant | Bis(trimethylsilyl)-5-fluorouracil | C[Si](C)(C)C1=C(C(N(C(N1)=O)[Si](C)(C)C)=O)F | C10H19FN2O2Si2
reactant | 5-fluorouracil | 10 g | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | 2-ethyl-1,3-dioxolan | 15 ml | C(C)C1OCCO1 | C5H10O2
reactant | sodium bicarbonate | 30 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 100 ml | CO | CH4O
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 1-[1-(2-hydroxyethoxy)propyl]-5-fluorouracil | OCCOC(CC)N1C(=O)NC(=O)C(=C1)F | C9H13FN2O4
